US06432955B1
85b. 7-Methoxy-isoquinoline-N-oxide hydrochloride
At room temperature 58 g of m-chloroperoxybenzoic acid (purity 75%) were added in portions to a stirred solution of 7-methoxy-isoquinoline (35.9 g) in 500 mL of dichloromethane. Stirring was continued for 3 hours and subsequently methanol (400 mL) was added. The bulk was reduced to 300 mL and 325 mL of a saturated solution of hydrogen chloride in diethyl ether were added. Dilution with 600 mL of diethyl ether afforded precipitation of yellow crystals, which were separated by filtration, washed with chilled diethyl ether and dried in vacuo. Yield: 41.3 g (87%); m.p. 185-187° C.; (+)-FAB-MS: 176 (MH+-HCl).

reactant | m-chloroperoxybenzoic acid | 58 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | 7-methoxy-isoquinoline | 35.9 g | COC1=CC=C2C=CN=CC2=C1 | C10H9NO
reactant | methanol | 400 mL | CO | CH4O
reactant | hydrogen chloride | Cl | ClH
solvent | dichloromethane | 500 mL | ClCCl | CH2Cl2
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | diethyl ether | 600 mL | C(C)OCC | C4H10O
product | 7-Methoxy-isoquinoline-N-oxide hydrochloride | Cl.COC1=CC=C2C=C[N+](=CC2=C1)[O-] | InChI=1S/C10H9NO2.ClH/c1-13-10-3-2-8-4-5-11(12)7-9(8)6-10;/h2-7H,1H3;1H
